US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-(2-fluoro-5-trifluoromethyl-benzyl)-amine (300 mg) is dissolved in toluene (5 ml) and thereto are added tris(dibenzylideneacetone)dipalladium (48 mg), 2-(di-tert-butylphosphino)biphenyl (62 mg), sodium tert-butoxide (75 mg) and ethyl piperidine-4-carboxylate (120 μl) and the mixture is stirred under nitrogen atmosphere at room temperature overnight. To the reaction solution are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=19:1→9:1) to give 1-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-fluoro-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yl}-ethyl piperidine-4-carboxylate (111 mg). MS (m/z): 653 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-(2-fluoro-5-trifluoromethyl-benzyl)-amine | 300 mg | FC(C=1C=C(CN(CC2=C(C=CC(=C2)C(F)(F)F)F)C2=NC=C(C=N2)Br)C=C(C1)C(F)(F)F)(F)F | C21H12BrF10N3
reactant | 2-(di-tert-butylphosphino)biphenyl | 62 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 75 mg | CC(C)([O-])C.[Na+]
reactant | ethyl piperidine-4-carboxylate | 120 μl | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 48 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-fluoro-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yl}-ethyl piperidine-4-carboxylate | 111 mg | N1CCC(CC1)C(=O)OC(C)C=1C=NC(=NC1)N(CC1=C(C=CC(=C1)C(F)(F)F)F)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C29H26F10N4O2
